2182-09-08 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Temp to 101 in the early morning. Asymptomatic other than feeling warm.
   Some chest
scratchiness
 when coughs, x2 days. Denies SOB, chest
   pressure, leg swelling, other pain.
 NASAL SWAB - At [**2182-9-7**] 08:00 PM
 BLOOD CULTURED - At [**2182-9-8**] 04:30 AM
 URINE CULTURE - At [**2182-9-8**] 04:45 AM
   UA/UCx
 BLOOD CULTURED - At [**2182-9-8**] 05:25 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-9-7**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-9-8**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 62 (61 - 75) bpm
   BP: 80/56(62) {80/49(59) - 93/62(71)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    734 mL
                                                                    124 mL
   PO:
                                                                    720 mL
                                                                     90 mL
   TF:
   IVF:
                                                                     14 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    520 mL
   Urine:
                                                                    545 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    189 mL
                                                                   -396 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GEN: NAD, resting in bed, on 3L NC
   CV: RRR, no m/r/g
   PULM: mild b/l rales at the bases
   ABD: soft, NT, ND
   EXTR: 2+ peripheral pulses, no edema
   NEURO: alert, oriented
   Labs / Radiology
   195 K/uL
   13.1 g/dL
   108 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   15 mg/dL
   106 mEq/L
   141 mEq/L
   39.0 %
   9.2 K/uL
        [image002.jpg]
                            [**2182-9-7**]  08:30 PM
                            [**2182-9-8**]  04:30 AM
   WBC
   7.9
   9.2
   Hct
   36.7
   39.0
   Plt
   167
   195
   Cr
   1.1
   1.0
   TropT
   2.33
   2.69
   Glucose
   142
   108
   Other labs: PT / PTT / INR:14.8/27.3/1.3, CK / CKMB /
   Troponin-T:257/4/2.69, ALT / AST:182/60, Alk Phos / T Bili:53/1.4,
   Differential-Neuts:67.8 %, Lymph:25.7 %, Mono:3.9 %, Eos:1.7 %,
   Albumin:3.2 g/dL, LDH:544 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   This is a 50 year old male with HTN and tobacco abuse who presents with
   5 days of intermittent chest discomfort, worsening shortness of breath
   found to have evidence of older lateral ischemic changes and new 4+MR
   .
   # CORONARIES: Likely had an event on [**9-2**] with possible stuttering
   plaque since then. Old due to Q-waves on EKG. Risk factors of HTN, and
   tobacco abuse. Unknown lipids - pending.
   - Given age of infarct, unlikely to benefit from heparin at this time
   - Holding BB, ACEi given relative hypotension and HR in the 60s
   - ASA 325, atorvastatin 80
   - Holding further plavix until surgery  (already received plavix at
   [**Hospital1 **] ED)
   - Continue to trend cardiac enzymes
   - F/u lipid panel
   - Counsel smoking cessation
   .
   # PUMP: Signs of acute pulmonary edema on history, exam, and CXR.
   Likely due to acute MR. MR likely due to papillary muscle dysfunction
   from MI. (Also with severe TR)
   - Unable to afterload reduce with meds given borderline BPs
   - Gentle diuresis with Lasix gtt
 decrease rate from 5 to 3, and hold
   as needed for hypotension; goal if possible -250cc/24 hours, but
   prioritize BP over diuresis as clinically comfortable even with fluid
   on-board
   - If becomes any more unstable, to cath lab emergently for IABP
   - Formal TTE planned on Monday for now
   - CT surgery c/s for question re: timing of surgery given prior plavix
   load, likely will need 5-day washout if possible
   .
   # PNEUMONIA: Febrile overnight, findings on CXR
   - Continue levofloxacin 750 mg PO Q24H, day 1 was [**9-7**], plan for 5 day
   course
   - sputum culture
   - f/u blood cultures both at [**Hospital1 **] & [**Hospital1 5**]
   .
   # RHYTHM: Currently in NSR
   -Monitor on telemetry
   .
   FEN: NPO for now
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Bowel regimen
   .
   CODE:  full
   .
   COMM: Wife and daughter (daughter is cardiovascular nurse); Portugese
   interpreter to be called to clarify medical understanding
   .
   DISPO: CCU for now
   ICU Care
   Lines:
   22 Gauge - [**2182-9-7**] 05:53 PM
   20 Gauge - [**2182-9-8**] 05:00 AM

2182-09-09 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Chest pain, 4+ MR
   24 Hour Events:
   -Dr [**Last Name (STitle) 9492**] from CT [**Doctor First Name 91**] to see pt
   -Goal -500cc (never needed lasix drip))
   -[**Location 9493**] negative
   -TTE tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-9-8**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-9-9**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 70 (50 - 70) bpm
   BP: 90/59(66) {78/50(57) - 94/63(68)} mmHg
   RR: 25 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.4 kg (admission): 86.5 kg
   Height: 66 Inch
                  Total In:
                                                                    435 mL
                  PO:
                                                                    390 mL
                  TF:
   IVF:
                                                                     45 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    200 mL
   Urine:
                                                                  1,085 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Eyes: (Conjunctiva and lids: WNL)
   Ears, Nose, Mouth and Throat: (Oral mucosa: WNL), (Teeth, gums and
   palette: WNL)
   Neck: (Right carotid artery: No bruit), (Left carotid artery: No
   bruit), (Jugular veins: JVP, 14cm), (Thyroid: WNL)
   Back / Musculoskeletal: (Chest wall structure: WNL)
   Respiratory: (Effort: WNL), (Auscultation: WNL)
   Cardiac: (Rhythm: Regular), (Palpation / PMI: WNL), (Auscultation: S1:
   WNL, S3: Absent, S4: Absent), (Murmur / Rub: Present), (Auscultation
   details: [**11-27**] holosystolic, best at LUSB)
   Abdominal / Gastrointestinal: (Bowel sounds: WNL), (Bruits: No),
   (Pulsatile mass: No), (Hepatosplenomegaly: No)
   Genitourinary: (WNL)
   Extremities / Musculoskeletal: (Digits and nails: WNL), (Muscle
   strength and tone: WNL), (Dorsalis pedis artery: Right: 2, Left: 2),
   (Posterior tibial artery: Right: 2, Left: 2), (Edema: Right: 0, Left:
   0)
   Skin: ( WNL)
   Labs / Radiology
   199 K/uL
   13.2 g/dL
   102 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   39.6 %
   8.6 K/uL
                            [**2182-9-7**]  08:30 PM
                            [**2182-9-8**]  04:30 AM
                            [**2182-9-9**]  04:30 AM
   WBC
   7.9
   9.2
   8.6
   Hct
   36.7
   39.0
   39.6
   Plt
   167
   195
   199
   Cr
   1.1
   1.0
   1.0
   TropT
   2.33
   2.69
   Glucose
   142
   108
   102
   Other labs: PT / PTT / INR:14.1/26.3/1.2, CK / CKMB /
   Troponin-T:257/4/2.69, ALT / AST:182/60, Alk Phos / T Bili:53/1.4,
   Differential-Neuts:67.8 %, Lymph:25.7 %, Mono:3.9 %, Eos:1.7 %,
   Albumin:3.2 g/dL, LDH:544 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   This is a 50 year old male with HTN and tobacco abuse who presents with
   5 days of intermittent chest discomfort, worsening shortness of breath
   found to have evidence of older lateral ischemic changes and new 4+MR
   .
   # CORONARIES: Likely had an event on [**9-2**] with possible stuttering
   plaque since then. Old due to Q-waves on EKG. Risk factors of HTN, and
   tobacco abuse. [**Last Name (un) **] lipids.
   - R and L heart cath today
   - Given age of infarct, unlikely to benefit from heparin at this time
   - Holding BB given relative hypotension and HR in the 60s
   - ASA 325, atorvastatin 80
   - ACEi for afterload reduction and ACS following cath as tolerated
   - Holding further plavix until surgery
   - Trend CEZ
   - Check lipids in AM
   - counsel smoking cessation
   - OSH cath report
   - f/u necessary pre-op w/u
   .
   # PUMP: Signs of acute pulmonary edema on history, exam, and CXR.
   Likely due to acute MR. MR likely due to papillary muscle dysfunction
   from MI.
   - Right and left heart cath today
   - f/u TTE
   - Gentle diuresis with Lasix gtt
   - Afterload reduction with ACEi following procedure as tolerated
   - If becomes any more unstable, to cath lab for IABP
   - CT surgery c/s in am for ? timing of surgery given plavix load,
   likely will need 5 day washout if possible.
   .
   # RHYTHM: Currently in NSR
   -Monitor on telemetry
   .
   FEN: NPO for now
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Bowel regimen
   .
   CODE:  full
   .
   COMM: Wife and daughter
   .
   DISPO: CCU until CT surgery (Wed), possible call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2182-9-7**] 05:53 PM
   20 Gauge - [**2182-9-8**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-09-10 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**9-9**]
   -ECHO showed LV hypokinesis, severe MR.
   [**Name14 (STitle) 5997**] need repeat echo Wed to eval for any improvement in papillary
   muscle function, plans for surgical valve repair/replacement Friday.
   -Cardiac cath:
   1. Two vessel obstructive coronary artery disease with chronically
   occluded RCA and subacute LCX occlusion.
   2. Systolic dysfunction with severe inferior and posterobasal
   hypokinesis and ejection fraction of 30-35%.
   3. Left ventricular diastolic dysfunction.
   4. Severe [**1-23**]+/4+ mitral regurgitation.
   -Anticipate CT surgery Fri
   -Started on lasix gtt and captopril
   -Pressures low at night, therefore captopril held, lasix gtt continued
   and SBPs held in 80s-90s
   - MAPs remain 55-60,  continued slow diuresis on 5mg/hr IV Lasix, neg.
   658 at MN, u/o remains 60-80s in setting of lower BP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-9-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-9-10**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 50 (45 - 70) bpm
   BP: 88/58(64) {81/47(57) - 98/64(70)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 86.4 kg (admission): 86.5 kg
   Height: 66 Inch
             Total In:
                                                                  1,173 mL
                                                                     38 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                    253 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    550 mL
   Urine:
                                                                  1,830 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -658 mL
                                                                   -512 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GEN: Lying comfortably in bed, NAD.
   Respiratory: CTA B, no wheezing, rhonchi or rales
   Cardiac: RRR,  [**11-27**] holosystolic, best at LUSB
   Abdominal / Gastrointestinall: soft, NT, ND +BD
   Extremities / Musculoskeletal: WWP, no CCE
   Labs / Radiology
   222 K/uL
   13.2 g/dL
   105 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   18 mg/dL
   105 mEq/L
   141 mEq/L
   40.2 %
   9.2 K/uL
        [image002.jpg]
                            [**2182-9-7**]  08:30 PM
                            [**2182-9-8**]  04:30 AM
                            [**2182-9-9**]  04:30 AM
                            [**2182-9-9**]  09:50 PM
                            [**2182-9-10**]  05:42 AM
   WBC
   7.9
   9.2
   8.6
   9.2
   Hct
   36.7
   39.0
   39.6
   40.2
   Plt
   167
   195
   199
   222
   Cr
   1.1
   1.0
   1.0
   0.9
   1.0
   TropT
   2.33
   2.69
   Glucose
   142
   108
   102
   105
   Other labs: PT / PTT / INR:14.1/26.3/1.2, CK / CKMB /
   Troponin-T:128/4/2.69, ALT / AST:90/36, Alk Phos / T Bili:56/0.5,
   Differential-Neuts:67.8 %, Lymph:25.7 %, Mono:3.9 %, Eos:1.7 %,
   Albumin:3.2 g/dL, LDH:365 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Imaging: Cardiac Cath:
   1. Two vessel obstructive coronary artery disease with chronically
   occluded RCA and subacute LCX occlusion.
   2. Systolic dysfunction with severe inferior and posterobasal
   hypokinesis and ejection fraction of 30-35%.
   3. Left ventricular diastolic dysfunction.
   4. Severe [**1-23**]+/4+ mitral regurgitation.
   CXR [**9-9**]
   FINDINGS: The opacity at the left lung base has increased, there is a
   new
   left pleural effusion. The findings may represent atelectasis, however,
   infection is not excluded. The right basilar opacity remains present.
   There is no overrt pulmonary edema. Mild cardiomegaly is stable. Right
   pleural effusion has decreased.
   Assessment and Plan
 This is a 50 year old male with HTN and tobacco abuse who presents
   with 5 days of intermittent chest discomfort, worsening shortness of
   breath found to have evidence of older lateral ischemic changes and new
   4+MR
   .
   # CORONARIES: Likely had an event on [**9-2**] with possible stuttering
   plaque since then. Old due to Q-waves on EKG. Risk factors of HTN, and
   tobacco abuse. LDL WNL, HDL low.  Underwent R and L heart cath [**9-9**]
   with results as above, TTE consistent.
   - Anticipate CT surgery (Dr. [**Last Name (STitle) 1038**] Fri for MV repair and 2 vessel
   CABG.
   - f/u CT [**Doctor First Name 91**] re: any additional necessary pre-surgery w/u
   - Given age of infarct, no heparin for now
   - Holding BB given relative hypotension and HR in the 60s
   - ASA 325, atorvastatin 80, Captopril (also for afterload reduction)
   - Holding further plavix until surgery
   - counsel smoking cessation
   .
   # Possible PNA:  Possible PNA, ?consolidation seen at OSH CXR, low
   grade fever on initial presentation, on Levaquin initiated [**9-7**] on
   five day course.
   - Continue Levaquin until [**9-11**]
   .
   # PUMP: Signs of acute pulmonary edema on history, exam, and CXR.
   Likely due to acute MR. MR likely due to papillary muscle dysfunction
   from MI.   Right and left heart cath showed mildly elevated R and L
   heart pressures, but will prioritize ACEi over Lasix given hypotension
   overnight.
   - f/u TTE final read
   - Gentle diuresis with Lasix gtt; goal -500cc today
   - Afterload reduction with Captopril; prioritize ACEi over Lasix if pt
   becomes hypotensive again
   - If becomes any more unstable, to cath lab for IABP
   .
   # RHYTHM: Currently in NSR
   -Monitor on telemetry
   .
   # Elevated LFTs:  Downtrending, likely [**12-24**] recent MI.
   .
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with HSC
   -Bowel regimen
   .
   CODE:  full
   .
   COMM: Wife and daughter
   .
   DISPO: Call out to floor vs. home
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2182-9-7**] 05:53 PM
   20 Gauge - [**2182-9-8**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Floor vs. home